US09108947B2
To a stirring solution of 6-bromopyridine-3-carbonitrile (2.0 g, 10.9 mmol), in EtOH (70 mL) were added bis[(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (0.892 mg, 0.10 mmol), potassium vinyl trifluoroborate (2.93 g, 21.9 mmol), triethylamine (3.0 mL, 21.9 mmol), and water (0.5 mL). The reaction mixture was heated to reflux. Upon completion as determined by reverse phase HPLC-MS (1-2 h) and TLC (eluent: 10% ethyl acetate in hexanes), the reaction was cooled to room temperature, and then was diluted with water and extracted with EtOAc. The combined organic layers were washed with brine and dried over MgSO4. The extracts were concentrated and chromatographed over a column of SiO2 (0-20% EtOAc hexanes as eluent). Evaporation of the solvent yielded 6-ethenylpyridine-3-carbonitrile.

reactant | 6-bromopyridine-3-carbonitrile | 10.9 mmol, 2.0 g | BrC1=CC=C(C=N1)C#N | C6H3BrN2
reactant | dichloromethane | 0.10 mmol, 0.892 mg | ClCCl | CH2Cl2
reactant | triethylamine | 21.9 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EtOH | 70 mL | CCO | C2H6O
solvent | water | O | H2O
solvent | water | 0.5 mL | O | H2O
product | 6-ethenylpyridine-3-carbonitrile | C(=C)C1=CC=C(C=N1)C#N | C8H6N2
